US06265418B1
In the same manner as in Example I-(1-A) except for using 0.30 g (0.79 mmol) of ethyl 4,5,6,7-tetrahydropyrazolo[4,3-c]pyridin-2-acetate.TsOH in place of ethyl 4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-acetate.HCl, 0.15 g (0.79 mmol) of N-t-butoxycarbonyl-L-alanine in place of N-t-butoxycarbonyl-L-4-nirophenylalanine and 0.33 g (0.87 mmol) of HBTU in place of BOP, the reaction was carried out to obtain ethyl 5-(N-t-butoxycarbonyl-L-alanyl)-4,5,6,7-tetrahydropyrazolo[4,3-c]pyridin-2-acetate as pale brownish solid without purification.

reactant | ethyl 4,5,6,7-tetrahydropyrazolo[4,3-c]pyridin-2-acetate | 0.79 mmol, 0.30 g | N=1N(C=C2CNCCC21)CC(=O)OCC | C10H15N3O2
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | HCl | Cl | ClH
reactant | N-t-butoxycarbonyl-L-alanine | 0.79 mmol, 0.15 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | HBTU | 0.87 mmol, 0.33 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
product | ethyl 5-(N-t-butoxycarbonyl-L-alanyl)-4,5,6,7-tetrahydropyrazolo[4,3-c]pyridin-2-acetate | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N1CC=2C(CC1)=NN(C2)CC(=O)OCC | C18H28N4O5
